US20010056191A1
2-[[(S)-3-cyclohexyl-2-[(R)-2,5-dioxo-4-propylimidazolidin-1-yl]propanoyl]amino]thiazole-4-carboxylic acid methyl ester.
In yet another embodiment of Compound A-1b, R3 is naphthyl and R4 is hydrogen. An example of such a compound is (S,S)-2-[[3-cyclohexyl-2-[2,5-dioxo-4-(naphthalen-2-yl)methylimidazolidin-1-yl]propanoyl]amino]thiazole-4-carboxylic acid methyl ester.

reactant | hydrogen | [H][H] | H2
reactant | (S,S)-2-[[3-cyclohexyl-2-[2,5-dioxo-4-(naphthalen-2-yl)methylimidazolidin-1-yl]propanoyl]amino]thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1CCCCC1)N1C(N[C@H](C1=O)CC1=CC2=CC=CC=C2C=C1)=O)=O | C28H30N4O5S
product | 2-[[(S)-3-cyclohexyl-2-[(R)-2,5-dioxo-4-propylimidazolidin-1-yl]propanoyl]amino]thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1CCCCC1)N1C(N[C@@H](C1=O)CCC)=O)=O | C20H28N4O5S
